US04634710
12.2 g of sodium were dissolved in 2 l of methanol under argon, whereupon 60 g of 2,5-dimethyl-4-nitropyridine 1-oxide were added portionwise and the solution was left to boil under reflux overnight. The pH was adjusted to 7 with 5N hydrogen chloride in ethyl acetate while cooling and the mixture was evaporated in vacuo. The residue was taken up in 1 l of methylene chloride, the solution was filtered through silica gel, which was rinsed with 0.4 l of methylene chloride, and the combined filtrates were evaporated in vacuo. The residue crystallized from methylene chloride/petroleum ether and there was obtained 4-methoxy-2,5-dimethylpyridine 1-oxide of melting point 99°-101°.

reactant | sodium | 12.2 g | [Na] | Na
reactant | 2,5-dimethyl-4-nitropyridine 1-oxide | 60 g | CC1=[N+](C=C(C(=C1)[N+](=O)[O-])C)[O-] | C7H8N2O3
reactant | hydrogen chloride | 5N | Cl | ClH
reactant | methanol | 2 l | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-methoxy-2,5-dimethylpyridine 1-oxide | COC1=CC(=[N+](C=C1C)[O-])C | C8H11NO2
